US06248738B1
NaH (45 mg, 80% dispersion in mineral oil, 1.5 mmol) was added to a stirred solution of 7-bromo-4-chloro-1-(2H)-isoquinolone (390 mg, 1.5 mmol) in THF (15 mL) under N2 at 0° C. and the mixture was stirred for 5-10 min which gave a clear orange solution. This solution was cooled to −78° C., a solution of n-BuLi (0.60 mL, 2.5 M in hexanes, 1.5 mmol) was added dropwise and the solution was stirred for an additional 15 min. A solution of S-phenyl benzenethiosulphate (PhSO2SPh) (378 mg, 1.5 mmol) in THF (5 mL) was added, the solution was stirred at −70° C. for 10 min and then allowed to warm slowly to room temperature. Water (30 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined organic extracts were washed with water, brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by column chromatography upon silica gel using CH2Cl2—MeOH-0.880NH3 (95:5:0.5) as eluant, followed by recrystallisation from EtOAc, to give 4-chloro-7-(phenylsulfanyl)-1(2H)-isoquinolone (186 mg, 0.64 mmol) as a white solid. A second crop of material (40 mg, 0.14 mmol) was recovered from the mother liquors.

reactant | NaH | 1.5 mmol, 45 mg | [H-].[Na+]
reactant | 7-bromo-4-chloro-1-(2H)-isoquinolone | 1.5 mmol, 390 mg | BrC1=CC=C2C(=CNC(C2=C1)=O)Cl | C9H5BrClNO
reactant | n-BuLi | 1.5 mmol, 2.5 M, 0.60 mL | [Li]CCCC
reactant | PhSO2SPh | C1(=CC=CC=C1)S(=O)(=O)SC1=CC=CC=C1 | C12H10O2S2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Water | 30 mL | O | H2O
product | 4-chloro-7-(phenylsulfanyl)-1(2H)-isoquinolone | 0.64 mmol, 186 mg | ClC1=CNC(C2=CC(=CC=C12)SC1=CC=CC=C1)=O | C15H10ClNOS
